US07138395B2
Preparation of 7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-1-methanesulfonyl-5-oxo-pyrrolidin-3-yl)-amide (118):
7-[(Naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (1-hydroxymethyl-3-methanesulfonylamino-3-oxo-propyl)-amide, 117, (49 mg) is dissolved in 5 mL methylene chloride and cooled to 0 deg. Dess-Martin periodinane (90 mg) is added, and the reaction is strirred for 2 h at 0 deg. Saturated aqueous sodium bicarbonate solution is added and the mixture is extracted with ethyl acetate. The combined opganic layers are dried over sodium sulfate powder and the product is purified over silica (2% methanol in methylene chloride) to afford the desired product.

reactant | 7-[(Naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (1-hydroxymethyl-3-methanesulfonylamino-3-oxo-propyl)-amide | OCC(CC(=O)NS(=O)(=O)C)NC(=O)C1CCCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O | C28H34N4O7S
reactant | Dess-Martin periodinane | 90 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-[(naphthalene-2-carbonyl)-amino]-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-1-methanesulfonyl-5-oxo-pyrrolidin-3-yl)-amide | OC1N(C(CC1NC(=O)C1CCCC2N1C(C(CC=CC2)NC(=O)C2=CC1=CC=CC=C1C=C2)=O)=O)S(=O)(=O)C | C28H32N4O7S
